US07531672B2
Synthesis of 2,5-dimethyl-4,5-dihydrocyclopenta[b]thiophen-6-one
A mixture of 150 g of 2-methylthiophene (1.5 mol) and 157.5 g of methacrylic acid (1.8 mol) was added within 30 minutes at about 80° C. to 1500 ml of Eaton's reagent, and the temperature was between 78° C. and 83° C. On completion of addition, the reaction mixture was stirred for a further 5 minutes and then gradually poured into a vigorously stirred mixture of 3000 ml of water and 500 ml of dichloromethane. The organic phase was removed and dried over magnesium sulfate. The solvent was distilled off on a rotary evaporator and 263.5 g of crude product were obtained in a purity of 88.2% according to GC-MS analysis. A portion of the crude product (79 g) was distilled (92° C., 0.02 torr). 56.5 g (76%) of product were obtained as a mixture of two isomers in a ratio of approx. 9:1 (thiophen-6-one: thiophen-4-one).

reactant | 2-methylthiophene | 1.5 mol, 150 g | CC=1SC=CC1 | C5H6S
reactant | methacrylic acid | 1.8 mol, 157.5 g | C(C(=C)C)(=O)O | C4H6O2
reactant | Eaton's reagent | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
reactant | water | 3000 ml | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2,5-dimethyl-4,5-dihydrocyclopenta[b]thiophen-6-one | 56.5 g, 76% | CC1=CC2=C(S1)C(C(C2)C)=O | C9H10OS
